US04198406
7-(Thien-3-ylacetamido)-3-(1-carbamoylmethyl-1H-tetrazol-5-ylthio)-methylceph-3-em-4-carboxylic acid
Sodium 7-(thien-3-ylacetamido)-3-acetoxymethylceph-3-em-4-carboxylate (1.90 g, 4.6 mmole), 5-mercapto-1H-tetrazol-1-ylacetamide (0.81 g, 5.1 mmole) and sodium bicarbonate (0.42 g, 5 mmole) in pH 6.5 phosphate buffer (25 ml) were heated at 60° for 6 hours, then poured onto ice, washed with ethyl acetate (25 ml), acidified to pH 1.5 and extracted with ethyl acetate (3×20 ml). The extracts were washed with water and saturated brine, dried, evaporated to dryness and the residue triturated with anhydrous ether to give the free acid, 1.59 g. This was dissolved in acetone (25 ml), treated with 2 N sodium 2-ethylhexoate in 4-methylpentan-2-one (1.5 ml), diluted with anhydrous ether (25 ml) and the precipitated sodium salt collected, washed with ether and dried, 1.00 g, 42.1% yield; t.l.c. (SiO2 ; B.A.W; 12:3:5) Rf=0.40; λmax (95% ethanol) 273 nm (ε=8,200); δ[(CD3)2SO] 3.2-3.7 (2H,m, C2 methylene), 3.38 (2H,s, --CH2CONH--), 4.04-4.25 (2H, ABq, J 13 Hz, --CH2S--), 4.73 (1H,d, J 5 Hz, C6 proton), 4.87 (2H,s, --CH2CONH2), 5.50 (1H,dd, J 5 and 8 Hz, C7 proton), 6.9-8.2 (5H,m, thienyl protons and --CONH2), 8.88 (1H,d, J 8 Hz, --CONH--).

reactant | Sodium 7-(thien-3-ylacetamido)-3-acetoxymethylceph-3-em-4-carboxylate | 4.6 mmole, 1.90 g | S1C=C(C=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)[O-])C1=O.[Na+]
reactant | 5-mercapto-1H-tetrazol-1-ylacetamide | 5.1 mmole, 0.81 g | SC1=NN=NN1CC(=O)N | C3H5N5OS
reactant | sodium bicarbonate | 5 mmole, 0.42 g | C([O-])(O)=O.[Na+]
reactant | sodium | 2 N | [Na] | Na
solvent | phosphate | 25 ml, pH 6.5 | P(=O)([O-])([O-])[O-]
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | 4-methylpentan-2-one | 1.5 ml | CC(CC(C)=O)C | C6H12O
solvent | ether | 25 ml | CCOCC | C4H10O
product | 7-(Thien-3-ylacetamido)-3-(1-carbamoylmethyl-1H-tetrazol-5-ylthio)-methylceph-3-em-4-carboxylic acid | 42.1% yield | S1C=C(C=C1)CC(=O)NC1[C@@H]2N(C(=C(C(S2)C)SC2=NN=NN2CC(N)=O)C(=O)O)C1=O | C17H17N7O5S3
